US04624954
Step (6) Preparation of N-(6,7,8,9-Tetrahydro-10-methylpyrido[1,2-a]indol-9yl)-N-methylformamide
A solution of N-(6,7,8,9-tetrahydro-10-methylpyrido[1,2-a]indole-9-yl)formamide (7.4 g, 32.4 mmol) in dimethylformamide (90 mL) was added dropwise at 25° C. to a suspension of sodium hydride (1.78 g, 37 mmol, ~50% suspension in mineral oil) in the same solvent (90 mL). The reaction mixture was stirred at 25° C. for 2 hours under exclusion of moisture. Methyl iodide (5.1 g, 35.6 mmol) was added and the mixture stirred at 25° C. overnight. The solvent was evaporated in vacuo and the residue partitioned between water (100 mL) and chloroform (150 mL). The organic layer was separated, dried over MgSO4, filtered, and evaporated to afford 7.85 g (100%) of the title compound as an amber oil.

reactant | N-(6,7,8,9-tetrahydro-10-methylpyrido[1,2-a]indole-9-yl)formamide | 32.4 mmol, 7.4 g | CC1=C2N(C3=CC=CC=C13)CCCC2NC=O | C14H16N2O
reactant | sodium hydride | 37 mmol, 1.78 g | [H-].[Na+]
reactant | Methyl iodide | 35.6 mmol, 5.1 g | CI | CH3I
solvent | dimethylformamide | 90 mL | CN(C=O)C | C3H7NO
product | N-(6,7,8,9-Tetrahydro-10-methylpyrido[1,2-a]indol-9yl)-N-methylformamide | 7.85 g, 100% | CC1=C2N(C3=CC=CC=C13)CCCC2N(C=O)C | C15H18N2O
